US06239151B1
A solution of 0.22 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-2′-phenyl-2′-(2(R)-phthalimidopropyl)valerohydrazide in 4 ml of methanol was treated with 0.04 g of hydrazine hydrate. The mixture was stirred for 5.5 hours and then the solvent was evaporated. The residue was suspended in 2 ml of dichloromethane and stirred at 4° C. overnight. The suspended solid was filtered off, the filtrate was evaporated and the residue was purified by flash chromatography on silica gel using dichloromethane/methanol (20:1) for the elution. There was obtained 0.189 of (E)-2′-(D-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide in the form of a colorless foam.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-2′-phenyl-2′-(2(R)-phthalimidopropyl)valerohydrazide | 0.22 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2)CC(C)C | C39H46N4O6
reactant | hydrazine hydrate | 0.04 g | O.NN
solvent | methanol | 4 ml | CO | CH4O
product | (E)-2′-(D-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide | N[C@H](C)C(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)C1=CC=CC=C1 | C31H42N4O5
